US06407092B1
Preparation of 4-Methoxy-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline
NaH (60% dispersion in mineral oil, 0.50 g, 1.2 mmol) was added to a solution of 10-benzoyl-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-ol (0.20 g, 0.58 mmol) in DMF (5.0 mL) at 0° C. under N2. After 30 min, iodomethane (0.040 mL, 0.64 mmol) was added. The reaction was quenched with saturated aqueous NH4Cl after 1 h and then allowed to warm to room temperature prior to extracting with EtOAc. The combined organic extracts were washed with saturated aqueous NaCl, dried over Na2SO4, decanted, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography with EtOAc/heptanes (2:1) to give 0.16 g (79%) of the title compound as a beige foam. 1H NMR (CDCl3) δ 7.46-7.30, 6.94, 4.51, 4.22-4.03, 4.01-3.79, 3.65-3.41, 3.29, 3.12, 3.04, 2.90, 2.82, 2.34, 2.08; IR (drift) 1631, 1493, 1477, 1459, 1422, 1370, 1359, 1324, 1292, 1267, 1098, 1085, 786, 748, 706 cm−1; HRMS (FAB) calcd for C23H24N2O2+H 361.1916, found 361.1913.

reactant | NaH | 1.2 mmol, 0.50 g | [H-].[Na+]
reactant | 10-benzoyl-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinolin-4-ol | 0.58 mmol, 0.20 g | C(C1=CC=CC=C1)(=O)N1CCC2C(N3CCC(C4=CC=CC2=C34)O)CC1 | C22H24N2O2
reactant | iodomethane | 0.64 mmol, 0.040 mL | IC | CH3I
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 4-Methoxy-5,6,8,9,10,11,12,12a-octahydro-4H,7aH-azepino[4′,5′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.16 g, 79% | COC1CCN2C3=C(C=CC=C13)C1C2CCNCC1 | C16H22N2O
